US04438266
8-Chloro-3-methyl-6-nitro-1,2,4-triazolo[4,3-a]pyrazine-5-amine
To 5.0 g (0.024 m) 5-chloro-6-hydrazino-3-nitropyrazinamine was added 50 ml of triethylorthoacetate and the resulting suspension was heated at 100° for 2.5 hours. The reaction mixture was cooled, filtered and the resulting dark brown solid washed with chloroform to give 4.1 g (75%) of the titled product as a brown solid, m.p. 220°; H' nmr (DMSO-d6): 9.60 (2H, broad singlet), 3.40 (3H, s); ms:m/e 228.

reactant | 5-chloro-6-hydrazino-3-nitropyrazinamine | 5.0 g | ClC=1N=C(C(=NC1NN)N)[N+](=O)[O-] | C4H5ClN6O2
reactant | triethylorthoacetate | 50 ml | C(C)C(C([O-])([O-])[O-])(CC)CC
product | 8-Chloro-3-methyl-6-nitro-1,2,4-triazolo[4,3-a]pyrazine-5-amine | 4.1 g, 75% | ClC=1C=2N(C(=C(N1)[N+](=O)[O-])N)C(=NN2)C | C6H5ClN6O2
